US08138189B2
Step 3: 3′-Chloro-4′-[2-(1-ethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-4-fluoro-biphenyl-3-carboxylic acid ethyl ester
In analogy to Example 150, step 2, 5-[2-(4-bromo-2-chloro-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-ethyl-1H-pyridin-2-one was reacted with 4-fluoro-3-ethoxycarbonylphenylboronic acid to give the title compound as a colorless foam. MS (m/e)=526.3 [M+H+].

reactant | 5-[2-(4-bromo-2-chloro-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-ethyl-1H-pyridin-2-one | BrC1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)CC)=O)C)Cl | C17H16BrClF3NO2
reactant | 4-fluoro-3-ethoxycarbonylphenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C(=O)OCC | C9H10BFO4
product | 3′-Chloro-4′-[2-(1-ethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-4-fluoro-biphenyl-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=CC1F)C1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CN(C(C=C1)=O)CC)C)Cl | C26H24ClF4NO4
